US08609688B2
Synthesis of methyl{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}carbamate
A mixture of methyl[1-(3-bromophenyl)piperidin-4-yl]carbamate (127 mg, 0.406 mmol), bis(pinacolato)diboron (124 mg, 0.487 mmol), Pd(dppf)Cl2.DCM (17 mg, 0.0203 mmol) and potassium acetate (120 mg, 1.22 mmol) in dioxane (4 mL) was heated at 80° C. for 17.5 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (hexane/AcOEt=75:25→50:50) to afford desired product (102 mg, 70%) as pale yellow solid.

reactant | methyl[1-(3-bromophenyl)piperidin-4-yl]carbamate | 0.406 mmol, 127 mg | COC(NC1CCN(CC1)C1=CC(=CC=C1)Br)=O | C13H17BrN2O2
reactant | bis(pinacolato)diboron | 0.487 mmol, 124 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.0203 mmol, 17 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 1.22 mmol, 120 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}carbamate | 102 mg, 70% | COC(NC1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H29BN2O4
